US06005116
(b) 4-(tert-Butyl)-3-hydroxy-5-phenylisoxazole
2-Benzoyl-3,3-dimethylbutyric acid ethyl ester (2.0 g) was dissolved in methanol (20 ml), and sodium methoxide (28% methanol solution, 1.6 ml) was added dropwise thereto at 5° C. under a nitrogen atmosphere, followed by stirring of the resulting mixture for 10 minutes. The reaction mixture was cooled to -30° C., and a suspension of hydroxylamine hydrochloride (1.1 g) and sodium methoxide (28% methanol solution, 6.2 ml) in methanol (10 ml) was added dropwise to the reaction mixture. The resulting mixture was stirred at the same temperature for 30 minutes, and 6N hydrochloric acid (14 ml) was added to the reaction mixture, followed by stirring of the resulting mixture at 80° C. for one hour. After the reaction, the solvent was evaporated under reduced pressure. After the residue was poured into ice-cold water and extracted with ethyl acetate, the organic layer was washed with a saturated aqueous NaCl solution and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was crystallized from isopropyl ether to obtain the title compound (0.35 g, 20%) as colorless crystals.

reactant | 2-Benzoyl-3,3-dimethylbutyric acid ethyl ester | 2.0 g | C(C)OC(C(C(C)(C)C)C(C1=CC=CC=C1)=O)=O | C15H20O3
reactant | sodium methoxide | 1.6 ml | C[O-].[Na+]
reactant | hydroxylamine hydrochloride | 1.1 g | Cl.NO
reactant | sodium methoxide | 6.2 ml | C[O-].[Na+]
reactant | hydrochloric acid | 6N, 14 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 4-(tert-Butyl)-3-hydroxy-5-phenylisoxazole | 0.35 g, 20% | C(C)(C)(C)C=1C(=NOC1C1=CC=CC=C1)O | C13H15NO2
